US07923450B2
1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-8-phenyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-ethanone
To a suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-amine hydrochloride (65 mg, 0.15 mmol) in methylen chloride (2 mL) was added at room temperature NN,-diisopropyl ethyl amine (28 mg, 0.22 mmol) and after 2 minutes acetyl chloride (12.5 mg, 0.16 mmol). The reaction was stirred at room temperature over night. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using dichloromethane/methanol (19:1 v/v) as eluent to yield the title compound (20 mg, 30%) as a yellow gum. MS ISP (m/e): 455.3 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=8.38 (s, 1H), 7.61 (s, 1H), 7.56 (s, 1H), 7.20-7.33 (m, 3H), 7.05-7.08 (m, 3H), 6.81 (s, 1H), 6.79 (d, 1H), 5.18 (d, 1H), 4.46 (d, 1H), 4.21 (t, 1H), 3.90 (m, 2H), 3.46 (s, 3H), 2.27 (s, 3H), 1.71 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-amine hydrochloride | 0.15 mmol, 65 mg | Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1N=CC2=C(N1)C(CNC2)C2=CC=CC=C2
reactant | diisopropyl ethyl amine | 0.22 mmol, 28 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.16 mmol, 12.5 mg | C(C)(=O)Cl | C2H3ClO
solvent | methylen chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-8-phenyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-ethanone | 20 mg, 30% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1N=CC2=C(N1)C(CN(C2)C(C)=O)C2=CC=CC=C2 | C26H26N6O2
